US03996374
A solution of 10.8 g. of 1-ethoxycarbonyl-5-chloro-3-phenylisoindole-2-acetic acid in 100 ml. of tetrahydrofuran is added dropwise under argon at 15°-20° C. to 72 ml. of a 1-M solution of borane in tetrahydrofuran. After stirring at room temperature for 60 hours, the clear solution is treated at 15°-20° C. with 30 ml. of ethanol and evaporated to dryness under reduced pressure. The solid residue is dissolved in methylene chloride and the obtained solution washed with a 5% sodium bicarbonate solution and then with water. The solution is dried over sodium sulfate, evaporated and the solid crude product obtained chromatographed on 700 g. of silica gel with methylene chloride/ethyl acetate (4:1) as the eluant. The uniform fractions yield 5-chloro-2-(2-hydroxyethyl)-3-phenylisoindole-1-carboxylic acid ethyl ester; melting point 114°-116° C. Recrystallization from ether/pentane does not increase the melting point.

reactant | 1-ethoxycarbonyl-5-chloro-3-phenylisoindole-2-acetic acid | C(C)OC(=O)C=1N(C(=C2C=C(C=CC12)Cl)C1=CC=CC=C1)CC(=O)O | C19H16ClNO4
reactant | borane | B | BH3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-chloro-2-(2-hydroxyethyl)-3-phenylisoindole-1-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C(=C2C=C(C=CC12)Cl)C1=CC=CC=C1)CCO | C19H18ClNO3
